US04511569
Preparation of 2-Hydroxy-5,6-dihydrobenzo[f]quinolin-3(4H)-one
Add 23.1 gm of 2-chloro-5,6-dihydro-benzo[f]quinolin-3(4H)-one to 300 ml of methanol containing 30 gm of sodium methoxide. Heat the system in a steel bomb at about 200° C. for 12 hours. Stop the reaction, remove solvent, treat with water, and isolate the title compound.

reactant | 2-chloro-5,6-dihydro-benzo[f]quinolin-3(4H)-one | 23.1 gm | ClC=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C13H10ClNO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 300 ml, 30 gm | CO | CH4O
product | 2-Hydroxy-5,6-dihydrobenzo[f]quinolin-3(4H)-one | OC=1C(NC=2CCC3=C(C2C1)C=CC=C3)=O | C13H11NO2
